US07173004B2
Prepared from 14-tert-butoxycarbonylamino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid etherate (114 mg, 0.192 mmol) and cyclobutanesulfonic acid amide (34 mg, 0.25 mmol) as described in the general procedure above. Flash chromatography (2% methanol/methylene chloride) gave 73 mg (58%) of [18-(isoquinolin-1-yloxy)-4-(1-methyl-cyclopropanesulfonylaminocarbonyl)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid tert-butyl ester as a white powder: LC-MS (Method A, retention time: 3.55 min), MS m/z 710 (M++1).

reactant | 14-tert-butoxycarbonylamino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid | 0.192 mmol, 114 mg | C(C)(C)(C)OC(=O)NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)O | C32H40N4O7
reactant | cyclobutanesulfonic acid amide | 0.25 mmol, 34 mg | C1(CCC1)S(=O)(=O)N | C4H9NO2S
solvent | methanol methylene chloride | CO.C(Cl)Cl
product | [18-(isoquinolin-1-yloxy)-4-(1-methyl-cyclopropanesulfonylaminocarbonyl)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid tert-butyl ester | 73 mg, 58% | C(C)(C)(C)OC(NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C1(CC1)C)=O | C36H47N5O8S
